US04116863
nickel ferrocyanide precipitate:
300 mg/l of ferrocyanide ions and 100 mg/l of nickel ions,

reactant | ferrocyanide | [Fe-4](C#N)(C#N)(C#N)(C#N)(C#N)C#N
reactant | nickel | [Ni] | Ni
product | nickel ferrocyanide | [Fe-4](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[Ni+4] | InChI=1S/6CN.Fe.Ni/c6*1-2;;/q;;;;;;-4;+4
